US08349849B2
2-bromo-6-octylbenzo[d]thiazole
To a solution of p-TsOH.H2O (108 mg, 0.57 mmol) in MeCN (2 mL) was added compound 6-octylbenzo[d]thiazol-2-amine (50 mg, 0.19 mmol). The resulting suspension was cooled to 10-15° C. and to this was added, gradually, a solution of NaNO2 (26 mg, 0.38 mmol) and KBr (56 mg, 0.48 mmol) in H2O (0.5 mL). The mixture was then stirred at r.t. for 1 h. Then the mixture was extracted with EtOAc and purified by silica gel chromatography using PE to give product the title compound (50 mg, 82%). 1H NMR (300 MHz, CDCl3) δ7.880 (t, 1H), 7.585 (s, 1H), 7.286 (t, 1H), 2.711 (t, 2H), 1.686-1.571 (m, 2H), 1.309-1.186 (m, 10H), 0.874 (t, 3H).

reactant | p-TsOH.H2O | 0.57 mmol, 108 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | 6-octylbenzo[d]thiazol-2-amine | 0.19 mmol, 50 mg | C(CCCCCCC)C1=CC2=C(N=C(S2)N)C=C1 | C15H22N2S
reactant | NaNO2 | 0.38 mmol, 26 mg | N(=O)[O-].[Na+]
reactant | KBr | 0.48 mmol, 56 mg | [K+].[Br-]
solvent | MeCN | 2 mL | CC#N | C2H3N
solvent | H2O | 0.5 mL | O | H2O
product | 2-bromo-6-octylbenzo[d]thiazole | 50 mg, 82% | BrC=1SC2=C(N1)C=CC(=C2)CCCCCCCC | C15H20BrNS
